data/mechanism_extracts/JOC/10.1021_acs.joc.5c01037.json
{"doi": "10.1021_acs.joc.5c01037", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical tandem radical addition/cyclization of para-quinone methides with haloacetonitriles to construct spiro[cyclohexane-1,2'-indene]-2,5-dien-4-one derivatives", "mechanism_family": ["radical_cathodic", "radical_anodic", "paired_electrolysis", "direct_SET"], "electrochemical_role": "Cathodic reduction of chloroacetonitrile generates a cyanomethyl radical and chloride anion; the chloride anion is then oxidized at the anode to a chlorine radical that couples with the carbon-centered intermediate", "key_intermediates": [{"name": "cyanomethyl radical (·CH2CN) from cathodic reduction of ClCH2CN", "smiles": "[CH2]C#N", "role": "reactive"}, {"name": "Radical intermediate A from addition of ·CH2CN to alkyne of p-QM 1a", "smiles": null, "role": "transient"}, {"name": "Indene-type C-centered radical B after 5-endo-dig cyclization (favored)", "smiles": null, "role": "reactive"}, {"name": "Alternative radical B' (disfavored due to steric hindrance)", "smiles": null, "role": "off_pathway"}, {"name": "Chlorine radical from anodic oxidation of Cl-", "smiles": "[Cl]", "role": "reactive"}], "electron_flow": "Chloroacetonitrile is reduced at the cathode to give a cyanomethyl radical plus chloride; the cyanomethyl radical adds to the alkyne of the p-quinone methide and undergoes 5-endo-dig cyclization to vinyl radical B; meanwhile chloride is oxidized at the anode to a chlorine radical, which couples with B to deliver the (Z)-spiro product 3aa.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO (2,2,6,6-tetramethyl-1-piperidinyloxy)", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely inhibited with 2.0 equiv TEMPO, indicating radical intermediates"}, {"name": "BHT (2,6-di-tert-butyl-4-methylphenol)", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction completely inhibited with 2.0 equiv BHT, supporting radical pathway"}, {"name": "Cyclic voltammetry of chloroacetonitrile 2a", "smiles": "ClCC#N", "purpose": "redox_probe", "observation": "Cathodic reduction peak at -0.992 V shows 2a can accept electrons at the cathode"}, {"name": "Cyclic voltammetry of NaCl", "smiles": "[Na+].[Cl-]", "purpose": "redox_probe", "observation": "Anodic oxidation peak at +1.23 V shows chloride can lose electrons at the anode"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Z-selectivity rationalized by preferred formation of intermediate B over sterically disfavored B'; the (E)-isomer pathway via B' is suppressed by steric hindrance. X-ray of product 3af confirms structure. Scaled-up reaction (8 mmol) gave 3ca in 62% yield; product can be elaborated by Sonogashira coupling."}
